US08134015B2
Separately, phosphorus oxychloride (200 μl) was added dropwise to N,N-dimethylformamide (73 mg) at 0° C., and the mixture was stirred at that temperature for 5 min. The reaction system was heated to 80° C., 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-thiophene-3-carboxylic acid ethyl ester (187 mg) synthesized by the above process was then added thereto, and the mixture was stirred at that temperature for 3 hr. After the completion of the reaction, the reaction solution was neutralized with a saturated sodium hydrogencarbonate solution, and was then subjected to separatory extraction with chloroform, and the organic layer was washed with saturated brine, was dried over sodium sulfate, and was then concentrated under the reduced pressure. The residue was purified by column chromatography eluted with a chloroform-methanol system to give 2-(3-diethylaminomethyl-benzoylamino)-5-formyl-4-methylthiophene-3-carboxylic acid ethyl ester as a useful intermediate (110 mg, yield 53%).

reactant | phosphorus oxychloride | 200 μl | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(3-diethylaminomethyl-benzoylamino)-4-methyl-thiophene-3-carboxylic acid ethyl ester | 187 mg | C(C)OC(=O)C1=C(SC=C1C)NC(C1=CC(=CC=C1)CN(CC)CC)=O | C20H26N2O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 73 mg | CN(C=O)C | C3H7NO
product | 2-(3-diethylaminomethyl-benzoylamino)-5-formyl-4-methylthiophene-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC(=C1C)C=O)NC(C1=CC(=CC=C1)CN(CC)CC)=O | C21H26N2O4S
